US04885283
In an analogous manner to that described in Example 1(A)(iv), from 0.347 g of 2(RS)-[[(RS)-(methoxy)(phthalimidomethyl)phosphinyl]methyl]-4 -methylvaleric acid and 0.2 g of (-)-3-amino-2-azacyclotridecanone there was obtained 0.21 g of [(RS)-4-methyl-2-[[(R or S)-2-oxoazacyclotridecyl]carbamoyl]pentyl](phthalimidomethyl)phosphinic acid methyl ester in the form of a white solid.

reactant | 2(RS)-[[(RS)-(methoxy)(phthalimidomethyl)phosphinyl]methyl]-4 -methylvaleric acid | 0.347 g | COP(=O)(CN1C(C=2C(C1=O)=CC=CC2)=O)CC(C(=O)O)CC(C)C | C17H22NO6P
reactant | (-)-3-amino-2-azacyclotridecanone | 0.2 g | NC1NC(CCCCCCCCCC1)=O | C12H24N2O
product | (phthalimidomethyl)phosphinic acid methyl ester | COP(=O)CN1C(C=2C(C1=O)=CC=CC2)=O | C10H10NO4P
